US07135466B2
2-Chlorobenzyl N-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-methoxyphenyl}carbamate
4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methoxyaniline (100 mg) was added to toluene (10 ml) and triethylamine (1 ml), and the mixture was heated under reflux to prepare a solution. A solution of triphosgene (140 mg) in methylene chloride was then added thereto, and the mixture was heated under reflux for 10 min. Next, (2-chlorophenyl)methanol (67 mg) was added thereto, and the mixture was further stirred with heating under reflux for 3 hr. A saturated aqueous sodium bicarbonate solution was added to stop the reaction, and the reaction solution was then extracted with chloroform, followed by washing with a 1 N aqueous hydrochloric acid solution, water, and saturated brine in that order. The extract was dried over sodium sulfate and was then concentrated. The residue was purified on a column using chloroform/methanol to give the title compound (147 mg, yield 96%).

reactant | 4-[(6,7-Dimethoxy-4-quinazolinyl)oxy]-2-methoxyaniline | 100 mg | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(N)C=C1)OC | C17H17N3O4
reactant | triphosgene | 140 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | (2-chlorophenyl)methanol | 67 mg | ClC1=C(C=CC=C1)CO | C7H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Chlorobenzyl N-{4-[(6,7-dimethoxy-4-quinazolinyl)oxy]-2-methoxyphenyl}carbamate | 147 mg, yield 96% | COC=1C=C2C(=NC=NC2=CC1OC)OC1=CC(=C(C=C1)NC(OCC1=C(C=CC=C1)Cl)=O)OC | C25H22ClN3O6
